US06960578B2
(3-Amino-2′,5′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester
Prepared from (2′,5′-difluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example B17) by catalytic hydrogenation with Pd/C according to the general procedure G (method a). Obtained as a light yellow gum (2.18 g).

reactant | (2′,5′-difluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC(=C1)F)F)[N+](=O)[O-])=O | C17H16F2N2O4
catalyst | Pd/C | [Pd] | Pd
product | (3-Amino-2′,5′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 2.18 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC(=C1)F)F)N)=O | C17H18F2N2O2
